*  Spice netlist mirror.pex.netlist transformed for AMS-Sim
*    additions

.LIB $MGC_DESIGN_KIT/models/lib.eldo TT

Vvdd VDD 0 2.5
Vgnd ground 0 0

*  Here begins the original spice file

* File: mirror.pex.netlist
* Created: Fri Mar 29 14:20:09 2019
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* 
.global VDD VSS 
.include "mirror.pex.netlist.pex"
* 
* A	A
* B	B
* CIN	CIN
* S	S
* COUT	COUT
* GROUND	GROUND
* VDD	VDD
M0 3 N_CIN_M0_g N_2_M0_s N_GROUND_M0_b NMOS L=1.3e-07 W=2e-06
M1 4 N_B_M1_g 3 N_GROUND_M0_b NMOS L=1.3e-07 W=2e-06
M2 N_GROUND_M2_d N_A_M2_g 4 N_GROUND_M0_b NMOS L=1.3e-07 W=2e-06
M3 N_COUT_M3_d N_10_M3_g N_GROUND_M2_d N_GROUND_M0_b NMOS L=1.3e-07 W=2e-06
M4 N_GROUND_M4_d N_2_M4_g N_S_M4_s N_GROUND_M0_b NMOS L=1.3e-07 W=2e-06
M5 N_8_M5_d N_CIN_M5_g N_GROUND_M4_d N_GROUND_M0_b NMOS L=1.3e-07 W=2e-06
M6 N_GROUND_M6_d N_B_M6_g N_8_M5_d N_GROUND_M0_b NMOS L=1.3e-07 W=2e-06
M7 N_8_M7_d N_A_M7_g N_GROUND_M6_d N_GROUND_M0_b NMOS L=1.3e-07 W=2e-06
M8 N_2_M8_d N_10_M8_g N_8_M7_d N_GROUND_M0_b NMOS L=1.3e-07 W=2e-06
M9 N_9_M9_d N_B_M9_g N_GROUND_M9_s N_GROUND_M0_b NMOS L=1.3e-07 W=2e-06
M10 N_10_M10_d N_CIN_M10_g N_9_M9_d N_GROUND_M0_b NMOS L=1.3e-07 W=2e-06
M11 11 N_A_M11_g N_10_M10_d N_GROUND_M0_b NMOS L=1.3e-07 W=2e-06
M12 N_GROUND_M12_d N_B_M12_g 11 N_GROUND_M0_b NMOS L=1.3e-07 W=2e-06
M13 N_9_M13_d N_A_M13_g N_GROUND_M12_d N_GROUND_M0_b NMOS L=1.3e-07 W=2e-06
M14 N_10_M14_d N_CIN_M14_g N_12_M14_s N_VDD_M14_b PMOS L=1.3e-07 W=2e-06
M15 13 N_A_M15_g N_10_M14_d N_VDD_M14_b PMOS L=1.3e-07 W=2e-06
M16 N_VDD_M16_d N_B_M16_g 13 N_VDD_M14_b PMOS L=1.3e-07 W=2e-06
M17 N_12_M17_d N_B_M17_g N_VDD_M16_d N_VDD_M14_b PMOS L=1.3e-07 W=2e-06
M18 N_VDD_M18_d N_A_M18_g N_12_M17_d N_VDD_M14_b PMOS L=1.3e-07 W=2e-06
M19 14 N_A_M19_g N_VDD_M18_d N_VDD_M14_b PMOS L=1.3e-07 W=2e-06
M20 15 N_B_M20_g 14 N_VDD_M14_b PMOS L=1.3e-07 W=2e-06
M21 N_2_M21_d N_CIN_M21_g 15 N_VDD_M14_b PMOS L=1.3e-07 W=2e-06
M22 N_16_M22_d N_10_M22_g N_2_M21_d N_VDD_M14_b PMOS L=1.3e-07 W=2e-06
M23 N_VDD_M23_d N_10_M23_g N_COUT_M23_s N_VDD_M14_b PMOS L=1.3e-07 W=2e-06
M24 N_16_M24_d N_A_M24_g N_VDD_M23_d N_VDD_M14_b PMOS L=1.3e-07 W=2e-06
M25 N_VDD_M25_d N_B_M25_g N_16_M24_d N_VDD_M14_b PMOS L=1.3e-07 W=2e-06
M26 N_16_M26_d N_CIN_M26_g N_VDD_M25_d N_VDD_M14_b PMOS L=1.3e-07 W=2e-06
M27 N_S_M27_d N_2_M27_g N_VDD_M27_s N_VDD_M14_b PMOS L=1.3e-07 W=2e-06
*
.include "mirror.pex.netlist.MIRROR.pxi"
*
.End
*
*
