* File: DFF.pex.netlist.pex
* Created: Wed Mar 20 13:30:55 2019
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_DFF_VDD 1 5 6 7 35
c0 43 0 912.89f
c1 39 0 77.16f
c2 35 0 36.8f
c3 30 0 77.16f
c4 28 0 912.89f
c5 24 0 77.16f
c6 20 0 98.208f
c7 17 0 566.68f
c8 16 0 98.208f
c9 13 0 575.98f
c10 12 0 98.208f
r11 39 42 0.0517569
r12 30 33 0.0517569
r13 24 27 0.0517569
r14 20 43 0.0648174
r15 20 42 0.28
r16 18 35 0.00419427
r17 17 43 0.00419427
r18 17 18 0.0976
r19 16 35 0.0648174
r20 16 33 0.28
r21 14 28 0.00419427
r22 13 35 0.00419427
r23 13 14 0.0992
r24 12 28 0.0648174
r25 12 27 0.28
r26 1 7 2.318
r27 1 6 2.318
r28 1 5 2.3302
r29 1 39 15.53
r30 1 35 0.1561
r31 1 30 15.53
r32 1 24 15.53
.ends

.subckt PM_DFF_Q 6 9 11 14 18 20 21 23 28 29 32 33 38 39 42 49 52 57 90 99 103
c30 103 0 69.6f
c31 99 0 86.635f
c32 94 0 134.298f
c33 91 0 61.44f
c34 90 0 328.169f
c35 87 0 70.4f
c36 82 0 77.16f
c37 78 0 77.16f
c38 76 0 15.36f
c39 72 0 17.12f
c40 65 0 70.4f
c41 60 0 77.16f
c42 57 0 65.12f
c43 54 0 209.968f
c44 52 0 871.905f
c45 50 0 63.76f
c46 49 0 94.944f
c47 47 0 125.488f
c48 46 0 28.16f
c49 45 0 63.008f
c50 44 0 118.448f
c51 42 0 495.968f
c52 39 0 160.368f
c53 38 0 649.968f
c54 36 0 88.41f
c55 35 0 184.448f
c56 34 0 70.4f
c57 33 0 277.664f
c58 32 0 102.608f
c59 30 0 28.16f
c60 29 0 621.664f
c61 28 0 583.968f
c62 26 0 430.876f
c63 25 0 112f
c64 24 0 125f
c65 18 0 56.5f
c66 14 0 287.364f
c67 11 0 155.488f
c68 9 0 657.208f
c69 6 0 366.464f
r70 90 91 0.962
r71 82 85 0.0517569
r72 73 75 0.1375
r73 60 63 0.0517569
r74 55 57 0.105
r75 53 54 0.5975
r76 52 99 0.0236071
r77 52 85 2.495
r78 50 75 0.04
r79 49 87 0.0517569
r80 49 50 0.2775
r81 48 76 0.0338756
r82 47 53 0.0446983
r83 47 48 0.2775
r84 45 99 0.0808643
r85 45 46 0.18
r86 44 78 0.0517569
r87 43 75 0.0046983
r88 43 44 0.3375
r89 42 76 0.00880368
r90 41 46 0.0446983
r91 41 42 1.41
r92 40 72 0.0338756
r93 39 54 0.0446983
r94 39 40 0.3825
r95 38 73 0.0046983
r96 37 72 0.00880368
r97 37 38 1.8475
r98 36 141 0.0559551
r99 35 72 0.0338756
r100 35 36 0.525
r101 34 69 0.0517569
r102 33 76 0.0338756
r103 33 34 0.8025
r104 32 57 0.0046983
r105 32 63 0.2925
r106 29 65 0.0517569
r107 29 30 1.7975
r108 28 30 0.0446983
r109 27 55 0.0046983
r110 27 28 1.66
r111 26 141 0.68
r112 26 103 0.68
r113 26 90 0.0477743
r114 26 99 0.68
r115 26 87 11.07
r116 26 82 15.61
r117 26 78 15.53
r118 26 69 11.07
r119 25 65 11.07
r120 25 60 15.61
r121 24 94 11.07
r122 24 91 0.0477743
r123 24 94 0.68
r124 23 26 2.318
r125 21 26 1.89833
r126 20 25 2.1105
r127 16 18 9.23077
r128 12 26 8.27089
r129 12 14 56.5385
r130 11 24 8.27089
r131 10 25 8.27089
r132 10 11 53.0769
r133 9 25 8.27089
r134 8 18 0.587288
r135 8 9 223.846
r136 4 16 0.587288
r137 4 6 83.4615
.ends

.subckt PM_DFF_GROUND 1 2 3 4 5 6 19
c0 55 0 98.208f
c1 53 0 77.16f
c2 50 0 98.208f
c3 48 0 77.16f
c4 46 0 36.8f
c5 44 0 98.208f
c6 42 0 77.16f
c7 39 0 98.208f
c8 37 0 77.16f
c9 33 0 77.16f
c10 24 0 1.09083p
c11 17 0 1.2038p
c12 16 0 648.83f
c13 11 0 98.208f
r14 53 55 0.0517569
r15 48 50 0.0517569
r16 42 44 0.0517569
r17 37 39 0.0517569
r18 30 31 0.0704
r19 28 30 0.0712
r20 26 55 0.28
r21 25 46 0.00419427
r22 24 26 0.102649
r23 24 25 0.116
r24 22 46 0.0648174
r25 22 50 0.28
r26 17 31 0.00426667
r27 17 19 0.0482667
r28 16 46 0.00419427
r29 16 19 0.0634667
r30 14 31 0.0983827
r31 14 44 0.28
r32 12 30 0.0983827
r33 12 39 0.28
r34 11 33 0.0517569
r35 10 28 0.0983827
r36 10 11 0.28
r37 6 53 15.61
r38 6 48 15.61
r39 6 42 15.61
r40 6 37 15.61
r41 6 33 15.61
r42 6 19 0.1553
r43 5 6 2.12167
r44 4 6 2.12167
r45 3 6 2.12167
r46 2 6 2.13283
r47 1 6 2.13283
.ends

.subckt PM_DFF_4 6 9 12 16 18 22 24 33 36 37 42 59 60 62 63 66 70 120 126
c34 126 0 143.2f
c35 120 0 934.058f
c36 97 0 134.363f
c37 93 0 88.41f
c38 88 0 133.051f
c39 83 0 134.363f
c40 71 0 48.64f
c41 70 0 328.732f
c42 69 0 61.44f
c43 68 0 33.372f
c44 67 0 48.64f
c45 66 0 180.144f
c46 65 0 32.972f
c47 63 0 26.14f
c48 62 0 201.09f
c49 61 0 28f
c50 60 0 169.68f
c51 59 0 341.131f
c52 56 0 61.12f
c53 52 0 77.16f
c54 45 0 78.32f
c55 42 0 285.648f
c56 40 0 114.928f
c57 38 0 70.4f
c58 37 0 94.944f
c59 36 0 313.808f
c60 34 0 28.16f
c61 33 0 308.208f
c62 32 0 649.968f
c63 30 0 186.44f
c64 29 0 125f
c65 28 0 204.64f
c66 27 0 125f
c67 26 0 144f
c68 25 0 61.44f
c69 19 0 29.38f
c70 18 0 88.818f
c71 16 0 439.914f
c72 12 0 282.844f
c73 9 0 491.098f
c74 6 0 844.454f
r75 70 71 0.952
r76 68 69 0.098
r77 66 67 0.536
r78 64 65 0.096
r79 62 63 0.592
r80 60 65 0.0446983
r81 60 61 0.42
r82 59 63 0.0446983
r83 58 61 0.0446983
r84 58 59 1.044
r85 55 56 0.13
r86 43 45 0.1425
r87 42 56 0.0046983
r88 41 42 0.8125
r89 40 52 0.0517569
r90 39 55 0.0046983
r91 39 40 0.3275
r92 38 48 0.0517569
r93 37 55 0.04
r94 37 38 0.2775
r95 36 45 0.0046983
r96 35 93 0.0559551
r97 35 36 0.8925
r98 33 41 0.0446983
r99 33 34 0.8025
r100 32 34 0.0446983
r101 31 43 0.0046983
r102 31 32 1.8475
r103 30 120 8.27089
r104 30 97 11.07
r105 30 70 0.0477743
r106 30 97 0.68
r107 29 71 0.0477743
r108 29 68 0.0477743
r109 29 93 0.68
r110 29 52 15.53
r111 29 48 11.07
r112 28 107 6.83333
r113 28 88 11.07
r114 28 66 0.0477743
r115 28 88 0.68
r116 27 83 11.07
r117 27 69 0.0474984
r118 27 83 0.68
r119 26 67 0.0474984
r120 26 62 0.0480501
r121 25 126 15.61
r122 25 64 0.0477743
r123 25 126 0.68
r124 24 29 2.074
r125 22 25 2.13283
r126 20 120 318.077
r127 18 20 5.58729
r128 18 19 19.2308
r129 14 19 5.58729
r130 14 16 108.462
r131 10 29 8.27089
r132 10 12 55
r133 9 27 8.27089
r134 8 107 4.63979
r135 8 9 167.308
r136 4 107 4.63979
r137 4 6 246.154
.ends

.subckt PM_DFF_7 5 8 11 17 20 24 29 32 38 40 41 44 47 48 57 58 60 85
c29 93 0 70.4f
c30 89 0 70.4f
c31 85 0 70.4f
c32 76 0 78.92f
c33 74 0 75.68f
c34 71 0 15.36f
c35 67 0 77.16f
c36 61 0 28.16f
c37 60 0 169.664f
c38 59 0 70.4f
c39 58 0 121.92f
c40 57 0 240.768f
c41 55 0 43.648f
c42 53 0 28.16f
c43 52 0 155.104f
c44 51 0 152.768f
c45 48 0 299.088f
c46 47 0 632.368f
c47 45 0 70.4f
c48 44 0 288.784f
c49 43 0 273.68f
c50 42 0 268.08f
c51 41 0 112f
c52 36 0 66.67f
c53 32 0 55.37f
c54 29 0 1.38832p
c55 27 0 22.148f
c56 24 0 549.524f
c57 20 0 424.094f
c58 17 0 105.768f
c59 15 0 29.38f
c60 14 0 247.018f
c61 13 0 29.38f
c62 12 0 160.008f
c63 11 0 748.738f
c64 8 0 377.764f
c65 5 0 539.688f
r66 76 78 0.01875
r67 72 74 0.135
r68 67 70 0.0517569
r69 60 93 0.0517569
r70 60 61 0.495
r71 59 81 0.0517569
r72 58 89 0.0517569
r73 58 59 0.355
r74 56 61 0.0446983
r75 56 57 0.685
r76 55 76 0.0228659
r77 54 74 0.0046983
r78 54 55 0.125
r79 52 85 0.0517569
r80 52 53 0.4425
r81 51 72 0.0046983
r82 50 53 0.0446983
r83 50 51 0.435
r84 49 71 0.0338756
r85 48 57 0.0446983
r86 48 49 0.7825
r87 47 71 0.00880368
r88 47 70 1.7975
r89 45 63 0.0514492
r90 44 71 0.0338756
r91 44 45 0.84
r92 43 109 6.66667
r93 43 98 4.08451
r94 43 93 11.07
r95 43 67 15.61
r96 43 63 11.07
r97 42 108 6.25
r98 42 89 11.07
r99 42 81 11.07
r100 41 85 11.07
r101 41 78 15.53
r102 40 41 2.318
r103 38 43 2.13283
r104 34 36 12.6923
r105 30 32 8.84615
r106 29 108 4.00993
r107 28 109 4.63979
r108 28 29 472.692
r109 27 109 4.63979
r110 26 36 0.587288
r111 26 27 7.69231
r112 22 34 0.587288
r113 22 24 145.769
r114 18 41 8.27089
r115 18 20 103.077
r116 17 41 8.27089
r117 16 17 36.1538
r118 14 16 5.58729
r119 14 15 74.2308
r120 12 42 8.27089
r121 12 13 54.6154
r122 11 15 5.58729
r123 10 13 5.58729
r124 10 11 255
r125 6 32 0.587288
r126 6 8 87.3077
r127 5 98 4.36847
r128 4 30 0.587288
r129 4 5 183.846
.ends

.subckt PM_DFF_8 5 8 12 16 19 21 22 24 68 70
c25 90 0 88.41f
c26 85 0 134.428f
c27 80 0 134.298f
c28 77 0 61.44f
c29 74 0 133.726f
c30 71 0 61.44f
c31 70 0 494.604f
c32 68 0 492.017f
c33 66 0 82.72f
c34 61 0 77.16f
c35 52 0 77.16f
c36 50 0 15.36f
c37 47 0 77.16f
c38 45 0 145.728f
c39 43 0 41.888f
c40 41 0 70.4f
c41 40 0 179.744f
c42 39 0 101.728f
c43 36 0 75.328f
c44 35 0 41.888f
c45 33 0 28.16f
c46 32 0 57.728f
c47 31 0 101.728f
c48 29 0 112f
c49 28 0 61.44f
c50 27 0 61.44f
c51 26 0 112f
c52 25 0 125f
c53 19 0 412.794f
c54 16 0 796.198f
c55 14 0 29.38f
c56 13 0 282.048f
c57 12 0 575.848f
c58 10 0 125f
c59 9 0 92.208f
c60 8 0 1.11938p
c61 5 0 364.204f
r62 70 71 1.442
r63 68 77 1.45
r64 64 66 0.155
r65 52 55 0.0517569
r66 45 66 0.0046983
r67 44 45 0.415
r68 43 61 0.0517569
r69 42 64 0.0046983
r70 42 43 0.12
r71 41 57 0.0517569
r72 40 44 0.0446983
r73 40 41 0.4325
r74 39 55 0.29
r75 37 50 0.0338756
r76 36 39 0.0446983
r77 36 37 0.135
r78 35 90 0.0559551
r79 34 50 0.00880368
r80 34 35 0.12
r81 32 50 0.0338756
r82 32 33 0.165
r83 31 33 0.0446983
r84 30 47 0.0517569
r85 30 31 0.29
r86 29 61 15.53
r87 29 57 11.07
r88 28 68 0.0477743
r89 28 90 0.68
r90 28 52 15.61
r91 28 47 15.61
r92 27 85 11.07
r93 27 70 0.0477743
r94 27 85 0.68
r95 26 74 11.07
r96 26 77 0.0474984
r97 26 74 0.68
r98 25 80 11.07
r99 25 71 0.0474984
r100 25 80 0.68
r101 24 29 2.074
r102 22 28 2.12167
r103 21 28 1.89833
r104 17 29 8.27089
r105 17 19 99.2308
r106 16 29 8.27089
r107 15 16 271.154
r108 13 15 5.58729
r109 13 14 86.1538
r110 12 14 5.58729
r111 11 12 196.154
r112 10 27 8.27089
r113 9 11 5.58729
r114 9 10 21.5385
r115 8 25 8.27089
r116 7 26 8.27089
r117 7 8 381.154
r118 3 26 8.27089
r119 3 5 82.6923
.ends

.subckt PM_DFF_11 3 6 12 14 18 20 22 24 40
c23 49 0 98.97f
c24 44 0 80f
c25 41 0 61.44f
c26 40 0 621.659f
c27 36 0 77.16f
c28 33 0 80.96f
c29 28 0 77.16f
c30 26 0 117.568f
c31 24 0 25.901f
c32 23 0 56.848f
c33 22 0 1.01171p
c34 20 0 279.984f
c35 18 0 925.968f
c36 16 0 61.44f
c37 15 0 125f
c38 10 0 59.89f
c39 6 0 297.534f
c40 3 0 1.34764p
r41 49 70 0.0374532
r42 40 41 1.804
r43 36 39 0.0517569
r44 31 33 0.15
r45 26 39 0.335
r46 23 26 0.0446983
r47 23 24 0.0825
r48 22 70 0.024479
r49 21 24 0.0446983
r50 21 22 2.96
r51 20 33 0.0046983
r52 19 44 0.0559551
r53 19 20 0.8025
r54 18 28 0.0517569
r55 17 31 0.0046983
r56 17 18 2.6375
r57 16 40 0.0477743
r58 16 49 0.68
r59 16 36 15.61
r60 15 44 11.07
r61 15 41 0.0474984
r62 15 44 0.68
r63 15 28 15.53
r64 14 15 2.3058
r65 12 16 2.12167
r66 8 10 10.3846
r67 4 10 0.587288
r68 4 6 60
r69 3 15 8.27089
r70 2 8 0.587288
r71 2 3 458.846
.ends

.subckt PM_DFF_12 3 5 8 10 16 20 21 32 34 36 43 59
c25 68 0 88.41f
c26 63 0 132.946f
c27 60 0 61.44f
c28 59 0 735.472f
c29 55 0 77.16f
c30 51 0 92.12f
c31 45 0 1.27653p
c32 43 0 379.808f
c33 41 0 70.4f
c34 40 0 66.224f
c35 39 0 61.44f
c36 38 0 125f
c37 32 0 48.59f
c38 28 0 71.19f
c39 25 0 862.868f
c40 24 0 113.69f
c41 23 0 40.228f
c42 21 0 29.38f
c43 20 0 61.698f
c44 19 0 29.38f
c45 18 0 66.218f
c46 16 0 1.71907p
c47 13 0 42.488f
c48 11 0 29.38f
c49 10 0 276.398f
c50 8 0 555.174f
c51 5 0 896.768f
c52 3 0 293.348f
r53 59 60 2.128
r54 55 58 0.0517569
r55 51 53 0.045617
r56 45 68 0.0559551
r57 45 58 3.6275
r58 43 53 0.0195926
r59 42 43 1.08
r60 41 47 0.0514492
r61 40 42 0.0446983
r62 40 41 0.11
r63 39 59 0.0477743
r64 39 68 0.68
r65 39 55 15.61
r66 38 51 15.53
r67 38 47 11.07
r68 37 76 0.457317
r69 37 63 11.07
r70 37 60 0.0474984
r71 37 63 0.68
r72 36 38 2.0862
r73 34 39 1.89833
r74 30 32 6.53846
r75 26 28 14.2308
r76 24 37 8.34456
r77 24 25 293.846
r78 23 76 7.88725
r79 22 23 13.8462
r80 20 22 5.58729
r81 20 21 11.1538
r82 18 25 5.58729
r83 18 19 12.6923
r84 14 21 5.58729
r85 14 16 543.846
r86 13 38 8.27089
r87 12 19 5.58729
r88 12 13 14.6154
r89 10 76 5.08593
r90 10 11 94.2308
r91 6 28 0.587288
r92 6 8 147.692
r93 5 11 5.58729
r94 4 32 0.587288
r95 4 5 305.385
r96 3 30 0.587288
r97 2 26 0.587288
r98 2 3 100
.ends

.subckt PM_DFF_D 6 10 13 16 20 32 33 35 38 39 58
c20 85 0 80f
c21 58 0 69.6f
c22 54 0 133.778f
c23 50 0 88.41f
c24 46 0 15.2f
c25 43 0 133.323f
c26 39 0 445.212f
c27 38 0 242.1f
c28 36 0 61.44f
c29 35 0 303.932f
c30 34 0 28.16f
c31 33 0 545.408f
c32 32 0 723.008f
c33 30 0 28.16f
c34 29 0 148.368f
c35 28 0 270.624f
c36 26 0 186.44f
c37 25 0 300.83f
c38 24 0 132.91f
c39 23 0 44.07f
c40 20 0 703.204f
c41 16 0 303.184f
c42 13 0 324.988f
c43 10 0 348.384f
c44 7 0 29.38f
c45 6 0 457.198f
c46 5 0 565.678f
r47 40 46 0.0338756
r48 39 40 1.304
r49 38 47 0.0178972
r50 37 46 0.00880368
r51 37 38 0.698
r52 35 46 0.0338756
r53 35 36 0.894
r54 33 50 0.0559551
r55 33 34 1.58
r56 31 34 0.0446983
r57 31 32 2.055
r58 29 32 0.0446983
r59 29 30 0.3425
r60 28 85 0.0559551
r61 27 30 0.0446983
r62 27 28 0.77
r63 26 54 11.07
r64 26 39 0.0477743
r65 26 54 0.68
r66 25 85 0.68
r67 25 85 11.07
r68 25 58 0.68
r69 25 47 0.0313167
r70 25 50 0.68
r71 24 72 4.21986
r72 24 43 11.07
r73 24 36 0.0474984
r74 24 43 0.68
r75 22 23 10
r76 18 26 8.27089
r77 18 20 198.077
r78 14 16 61.9231
r79 13 72 4.33363
r80 13 23 110.769
r81 10 22 77.3077
r82 6 14 5.58729
r83 6 7 145.769
r84 5 7 5.58729
r85 4 25 8.27089
r86 4 5 192.692
.ends

.subckt PM_DFF_CLK 6 10 14 16 19 21 23 32 39 41 61 85
c20 95 0 134.363f
c21 87 0 119.8f
c22 85 0 94.468f
c23 61 0 69.6f
c24 57 0 133.622f
c25 52 0 134.363f
c26 47 0 134.558f
c27 44 0 295.872f
c28 42 0 61.44f
c29 41 0 317.509f
c30 40 0 61.44f
c31 39 0 673.745f
c32 38 0 61.44f
c33 37 0 186.44f
c34 36 0 125f
c35 35 0 125f
c36 34 0 24.29f
c37 32 0 827.504f
c38 29 0 413.128f
c39 26 0 54.918f
c40 25 0 29.38f
c41 24 0 158.878f
c42 23 0 1.10582p
c43 21 0 29.38f
c44 19 0 506.918f
c45 17 0 29.38f
c46 16 0 193.908f
c47 14 0 290.754f
c48 10 0 834.284f
c49 6 0 474.944f
r50 43 44 0.848
r51 41 42 0.934
r52 39 44 0.0446983
r53 39 40 1.872
r54 38 87 8.35139
r55 38 85 8.35139
r56 38 57 11.07
r57 38 41 0.0477743
r58 38 57 0.68
r59 37 43 0.0477743
r60 37 95 0.68
r61 37 95 11.07
r62 37 61 0.68
r63 36 52 11.07
r64 36 42 0.0477743
r65 36 52 0.68
r66 35 71 8.27089
r67 35 47 11.07
r68 35 40 0.0474984
r69 35 47 0.68
r70 30 34 4.23445
r71 30 32 240.385
r72 28 34 4.23445
r73 28 29 140.769
r74 26 34 1.10046
r75 26 87 18.8462
r76 24 29 5.58729
r77 24 25 44.2308
r78 23 37 8.27089
r79 22 25 5.58729
r80 22 23 376.538
r81 21 85 32.3077
r82 19 21 5.58729
r83 18 19 172.692
r84 16 18 5.58729
r85 16 17 56.1538
r86 12 17 5.58729
r87 12 14 57.6923
r88 8 36 8.27089
r89 8 10 242.692
r90 6 71 120.385
.ends

