*
* .CONNECT statements
*
.CONNECT GROUND 0


* ELDO netlist generated with ICnet by 'egrvlsi07' on Tue Mar 19 2019 at 16:15:03

*
* Globals.
*
.global VDD GROUND

*
* MAIN CELL: Component pathname : $VLSI/Project/DFF
*
        M20 N$101 Q VDD VDD pmos w=0.6u l=0.13u m=1 as=0.204p ad=0.204p
+  ps=1.28u pd=1.28u
        M19 Q N$101 VDD VDD pmos w=0.6u l=0.13u m=1 as=0.204p ad=0.204p
+  ps=1.28u pd=1.28u
        M18 N$84 N$82 VDD VDD pmos w=0.6u l=0.13u m=1 as=0.204p ad=0.204p
+  ps=1.28u pd=1.28u
        M17 N$82 N$84 VDD VDD pmos w=0.6u l=0.13u m=1 as=0.204p ad=0.204p
+  ps=1.28u pd=1.28u
        M16 N$70 D VDD VDD pmos w=1.4u l=0.13u m=1 as=0.476p ad=0.476p ps=2.08u
+  pd=2.08u
        M15 N$65 CLK VDD VDD pmos w=1.4u l=0.13u m=1 as=0.476p ad=0.476p
+  ps=2.08u pd=2.08u
        M14 Q CLK N$93 GROUND nmos w=0.6u l=0.13u m=1 as=0.204p ad=0.204p
+  ps=1.28u pd=1.28u
        M13 N$101 CLK N$40 GROUND nmos w=0.6u l=0.13u m=1 as=0.204p ad=0.204p
+  ps=1.28u pd=1.28u
        M12 N$82 N$65 N$88 GROUND nmos w=0.6u l=0.13u m=1 as=0.204p ad=0.204p
+  ps=1.28u pd=1.28u
        M11 N$84 N$65 N$67 GROUND nmos w=0.6u l=0.13u m=1 as=0.204p ad=0.204p
+  ps=1.28u pd=1.28u
        M10 N$40 N$84 GROUND GROUND nmos w=0.6u l=0.13u m=1 as=0.204p ad=0.204p
+  ps=1.28u pd=1.28u
        M9 Q N$101 GROUND GROUND nmos w=0.6u l=0.13u m=1 as=0.204p ad=0.204p
+  ps=1.28u pd=1.28u
        M8 N$101 Q GROUND GROUND nmos w=0.6u l=0.13u m=1 as=0.204p ad=0.204p
+  ps=1.28u pd=1.28u
        M7 N$93 N$82 GROUND GROUND nmos w=0.6u l=0.13u m=1 as=0.204p ad=0.204p
+  ps=1.28u pd=1.28u
        M6 N$88 D GROUND GROUND nmos w=0.6u l=0.13u m=1 as=0.204p ad=0.204p
+  ps=1.28u pd=1.28u
        M5 N$84 N$82 GROUND N$76 nmos w=0.6u l=0.13u m=1 as=0.204p ad=0.204p
+  ps=1.28u pd=1.28u
        M4 N$82 N$84 GROUND N$76 nmos w=0.6u l=0.13u m=1 as=0.204p ad=0.204p
+  ps=1.28u pd=1.28u
        M3 N$67 N$70 GROUND GROUND nmos w=0.6u l=0.13u m=1 as=0.204p ad=0.204p
+  ps=1.28u pd=1.28u
        M2 N$70 D GROUND GROUND nmos w=0.6u l=0.13u m=1 as=0.204p ad=0.204p
+  ps=1.28u pd=1.28u
        M1 N$65 CLK GROUND GROUND nmos w=0.6u l=0.13u m=1 as=0.204p ad=0.204p
+  ps=1.28u pd=1.28u
*
.end
